US06080754
The general synthetic pathway outlined in example 23, step 1-5, have been applied to proper starting materials in the preparation of 2-(4-benzyloxyphenyl)-1-ethyl-6-methoxyindolizine, which was reacted with dimethyl acetylene dicarboxylate by the general synthetic principle outlined in example 23, step 6, to afford dimethyl 3-(4-benzyloxyphenyl)-4-ethyl-7-methoxypyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylate as a red oil in 80% yield. 1H-NMR (CDCl3, 200 MHz) δ: 1.36 (t, 3H); 3.02 (q, 2H); 3.60 (s, 3H); 3.98 (s, 3H); 4.14 (s, 3H); 5.15 (s, 2H); 7.04-7.52 (m, 10H); 7.81 (d, 1H).

reactant | 2-(4-benzyloxyphenyl)-1-ethyl-6-methoxyindolizine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(=C2C=CC(=CN2C1)OC)CC | C24H23NO2
reactant | dimethyl acetylene dicarboxylate | C(#CC(=O)OC)C(=O)OC | C6H6O4
product | dimethyl 3-(4-benzyloxyphenyl)-4-ethyl-7-methoxypyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylate | 80% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C=2N3C1=C(C(=C3C(=CC2)OC)C(=O)OC)C(=O)OC)CC | C30H27NO6
